US06693123B2
4-[2-(3-Pyridyl)ethenyl]-2-phenylbenzoic Acid Methyl Ester
A mixture of the 4-iodo-2-phenylbenzoic acid methyl ester (6.11 g, 18.1 mmol), prepared as in Example 210C, 3-vinylpyridine (2.85 g, 27.1 mmol), prepared as in Example 210E, [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) chloride, complexed to dichloromethane (1:1) (444 mg, 0.543 mmol) and triethylamine (5.05 g, 36.2 mmol), in 1-methyl-2-pyrrolidinone (30 mL) was degassed with nitrogen and heated at 80° C. for 18 hours. The reaction mixture was diluted with ether, filtered through silica gel, and rinsed with ethyl acetate. The filtrate was washed with water and brine, dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography (30% ethyl acetate-hexane) to give the title compound (4.82 g, 84%).

reactant | 4-iodo-2-phenylbenzoic acid methyl ester | 18.1 mmol, 6.11 g | COC(C1=C(C=C(C=C1)I)C1=CC=CC=C1)=O | C14H11IO2
reactant | 3-vinylpyridine | 27.1 mmol, 2.85 g | C(=C)C=1C=NC=CC1 | C7H7N
reactant | dichloromethane | 0.543 mmol, 444 mg | ClCCl | CH2Cl2
reactant | triethylamine | 36.2 mmol, 5.05 g | C(C)N(CC)CC | C6H15N
solvent | 1-methyl-2-pyrrolidinone | 30 mL | CN1C(CCC1)=O | C5H9NO
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) chloride | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-[2-(3-Pyridyl)ethenyl]-2-phenylbenzoic Acid Methyl Ester | 4.82 g, 84% | COC(C1=C(C=C(C=C1)C=CC=1C=NC=CC1)C1=CC=CC=C1)=O | C21H17NO2
